US09428500B2
4-(4-benzylpiperazin-1-yl)-6-(4-(4-methylpiperazin-1-yl)phenyl)-9-(phenylsulfonyl)-9H-pyrido[2,3-b]indole
9-Benzenesulfonyl-4-chloro-6-[4-(4-methyl-piperazin-1-yl)-phenyl]-9H-pyrido[2,3-b]indole (building block A, 50 mg, 0.0967 mmol) and benzylpiperazine (0.21 mL, 12.5 eq) were heated at 150° C. for 7 h. After cooling to r.t., the reaction mixture was diluted with DCM (20 mL), washed 3 times with water (3×10 mL) and brine (10 mL). The organic layer was dried over MgSO4, filtered and evaporated to dryness. The crude product was purified by silica gel flash chromatography (DCM/MeOH 100:0 to 98:2) to afford the desired product in 57% yield (36.1 mg) as an uncoloured amorphous solid. 1H NMR (300 MHz, CDCl3) δ 8.52 (d, J=8.7 Hz, 1H), 8.40 (d, J=5.6 Hz, 1H), 8.16 (d, J=8.8 Hz, 2H), 8.07 (d, J=1.9 Hz, 1H), 7.71 (dd, J=8.8, 1.9 Hz, 1H), 7.58 (d, J=8.7 Hz, 2H), 7.49 (t, J=7.4 Hz, 1H), 7.40 (d, J=8.0 Hz, 2H), 7.38-7.27 (m, 5H), 7.07 (d, J=8.8 Hz, 2H), 6.82 (d, J=5.6 Hz, 1H), 3.64 (s, 2H), 3.36-3.31 (m, 4H), 3.30-3.18 (m, 4H), 2.88-2.68 (m, 4H), 2.68-2.60 (m, 4H), 2.40 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 155.3 (C), 152.9 (C), 150.6 (C), 147.9 (CH), 138.9 (C), 137.8 (C), 136.8 (C), 135.6 (C), 133.8 (CH), 132.2 (C), 129.2 (CH), 128.9 (CH), 128.5 (CH), 127.9 (CH), 127.7 (CH), 127.4 (CH), 125.8 (CH), 123.1 (C), 120.7 (CH), 116.3 (CH), 114.7 (CH), 110.4 (C), 108.5 (CH), 63.1 (CH2), 55.2 (2CH2), 53.0 (2CH2), 50.6 (2CH2), 49.0 (2CH2), 46.3 (NCH3); MS (ESI) m/z: 657.3 [M+H]+; 1314.7 [2M+H]+; 516.5 [M-SO2Ph+H]′.

reactant | 9-Benzenesulfonyl-4-chloro-6-[4-(4-methyl-piperazin-1-yl)-phenyl]-9H-pyrido[2,3-b]indole | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)C1=CC=C(C=C1)N1CCN(CC1)C)C(=CC=N2)Cl | C28H25ClN4O2S
reactant | benzylpiperazine | 0.21 mL, 12.5 eq | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-benzylpiperazin-1-yl)-6-(4-(4-methylpiperazin-1-yl)phenyl)-9-(phenylsulfonyl)-9H-pyrido[2,3-b]indole | 57% yield | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=NC=2N(C3=CC=C(C=C3C21)C2=CC=C(C=C2)N2CCN(CC2)C)S(=O)(=O)C2=CC=CC=C2 | C39H40N6O2S
